2177-09-27 09:01:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo f with AML s/p chemo, MDS, recent hemicolectomy [**9-5**] for cecal
   mass, complicated by leak/divert colostomy [**9-19**], course c/b A/CRI (ATN
   suspected)
   On zosyn/flagyl/vanco; transferred to surgery last week with
   vanco/flagyl dc'd.
   Within past 24 hours, WBC increased to 62, uop decreased, BP dropped,
   coagulopathy (INR 1.7) and hct dropped
   24 Hour Events:
 PICC LINE - START [**2177-9-26**] 10:20 PM
   *BP responded to fluid resuscitation
   *CXR: effusion/unchanged
   *Added back vanco/flagyl
   *received 2 units blood, 2 mg IV vit K
   *hemolysis labs negative
   *path: low grade B cell
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Lisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Vancomycin - [**2177-9-27**] 02:00 AM
   Metronidazole - [**2177-9-27**] 07:28 AM
   Piperacillin - [**2177-9-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-9-27**] 12:00 AM
   Morphine Sulfate - [**2177-9-27**] 07:29 AM
   Other medications:
   SSI,
   Changes to medical and family history:
   DM, HTN, hyperlipidemia
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-9-27**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 107 (102 - 109) bpm
   BP: 114/68(78) {88/39(51) - 124/69(81)} mmHg
   RR: 34 (30 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                     98 mL
                                                                  1,767 mL
   PO:
           TF:
   IVF:
   510 mL
   Blood products:
   750 mL
   Total out:
                                                                      0 mL
                                                                     40 mL
   Urine:
   40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     98 mL
                                                                  1,727 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Distended, Tender: diffusely, left sided ostomy
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   95 K/uL
   129 mg/dL
   3.9 mg/dL; 3.3 yesterday
   20 mEq/L
   5.5 mEq/L
   71 mg/dL
   104 mEq/L
   138 mEq/L
   27.6 %
   68.8 K/uL
        [image002.jpg]
                            [**2177-9-26**]  11:20 PM
                            [**2177-9-27**]  06:38 AM
   WBC
   52.0
   68.8
   Hct
   19.4
   27.6
   Plt
   116
   95
   Cr
   3.9
   Glucose
   129
   Other labs: PT / PTT / INR:16.7/36.3/1.5, Alk Phos / T Bili:/1.0,
   D-dimer:5744 ng/mL, Fibrinogen:464 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:516 IU/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:6.0
   mg/dL
   Assessment and Plan
   75 yo female with AML s/p chemo, cecal B cell lymphoma s/p
   resection/anastomotic leak. Now back with anemia, coagulpathy,
   suspected blood loss
   1. Hypotension: suspect combination hypovolemia (acute blood loss
   anemia) and sepsis from intra-abdominal source
   *Back on vanco/flagyl/zosyn for sepsis
   *Fluid resusciate /including with blood transfusions as needed
   *CT Torso
   2. Acute blood loss anemia: hematocrit up after blood transfusion
   *Continue to check serial Hct's
   3. Coaguloapathy: correct as needed if bleeding and INR<1.5, otherwise
   observe. This appears to be from sepsis
   4. Acute on chronic renal failure: Given circumstances, this appears to
   be from hypovolemia/ATN.
     Consult further with renal- with oliguria and rising K may be headed
   for dialysis
   5. B cell lymphoma: Onc following, BCR/ABL drawn
   6. Access Right picc (1 for TPN)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2177-9-26**] 10:20 PM 59 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2177-9-26**] 10:20 PM
   22 Gauge - [**2177-9-27**] 01:51 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2177-10-01 09:33:00 Physician Attending Progress Note
Chief Complaint: POD #2 s/p unpacking of abdomen and closure of
   abdominal wound
   respiraotry failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2177-9-30**] 01:36 PM
 BAL FLUID CULTURE - At [**2177-9-30**] 02:00 PM
 ULTRASOUND - At [**2177-9-30**] 02:04 PM
   Liver US done at bedside
 ARTERIAL LINE - START [**2177-9-30**] 07:30 PM
 BLOOD CULTURED - At [**2177-10-1**] 05:18 AM
   small amt prulent drainage noted at ///TLC insertion site
   Transfused 2 u pRBCs, 2 u FFP, and platelets yesterday; hct 21 to 30
   Femoral A-line placed by surgery
   Holding caspofungen for transaminitis
   History obtained from Medical records
   Allergies:
   Lisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Vancomycin - [**2177-9-29**] 11:00 PM
   Caspofungin - [**2177-9-30**] 01:01 AM
   Meropenem - [**2177-9-30**] 07:42 AM
   Metronidazole - [**2177-9-30**] 12:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2177-9-30**] 10:32 AM
   Midazolam (Versed) - [**2177-9-30**] 01:42 PM
   Fentanyl - [**2177-9-30**] 01:43 PM
   Pantoprazole (Protonix) - [**2177-9-30**] 11:41 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: ventialted
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-10-1**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 80 (80 - 97) bpm
   BP: 105/54(72) {82/42(-15) - 130/63(87)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.6 kg (admission): 81.2 kg
   Height: 61 Inch
   CVP: 20 (8 - 20)mmHg
   Total In:
                                                                  4,084 mL
                                                                    722 mL
   PO:
   TF:
   IVF:
                                                                  1,082 mL
                                                                    190 mL
   Blood products:
                                                                  1,590 mL
   Total out:
                                                                  4,075 mL
                                                                    965 mL
   Urine:
                                                                  3,470 mL
                                                                    835 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
                                                                    245 mL
                                                                     90 mL
   Balance:
                                                                      9 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 33 cmH2O
   Plateau: 29 cmH2O
   Compliance: 21.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/49/105/26/2
   Ve: 7.7 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently, No(t)
   Rhonchorous: )
   Abdominal: dressing on abdominal wound clean and dry
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   87 K/uL
   106 mg/dL
   4.1 mg/dL
   26 mEq/L
   3.1 mEq/L
   80 mg/dL
   107 mEq/L
   145 mEq/L
   30.0 %
   47.3 K/uL
        [image002.jpg]
                            [**2177-9-29**]  12:58 PM
                            [**2177-9-29**]  03:45 PM
                            [**2177-9-29**]  05:59 PM
                            [**2177-9-30**]  12:27 AM
                            [**2177-9-30**]  02:06 AM
                            [**2177-9-30**]  03:33 AM
                            [**2177-9-30**]  02:26 PM
                            [**2177-10-1**]  12:01 AM
                            [**2177-10-1**]  12:09 AM
                            [**2177-10-1**]  04:12 AM
   WBC
   67.1
   72.8
   50.7
   46.2
   47.3
   Hct
   28
   27.6
   21.0
   30.7
   30.4
   30.0
   Plt
   100
   79
   124
   88
   87
   Cr
   5.0
   4.5
   4.6
   4.4
   4.1
   TropT
   0.04
   0.04
   TCO2
   26
   29
   30
   Glucose
   141
   139
   151
   110
   111
   106
   Other labs: PT / PTT / INR:19.5/37.6/1.8, CK / CKMB /
   Troponin-T:50/5/0.04, ALT / AST:246/165, Alk Phos / T Bili:144/5.3,
   Differential-Neuts:63.0 %, Band:5.0 %, Lymph:2.0 %, Mono:19.0 %,
   Eos:0.0 %, D-dimer:5744 ng/mL, Fibrinogen:412 mg/dL, Lactic Acid:1.7
   mmol/L, Albumin:2.2 g/dL, LDH:521 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Bronch yesterday showed
   minimal thin, frothy secretions.  Sputum gram stains with more than 25
   polys, no organisms.  BAL pending. Still with total body fluid
   overload, will need to remove fluid to start to move her towards
   weaning from ventilator support.  Now off pressors for more than 12
   hours.  Will hold on lasix drip until sure hct stable as below.
 HYPOTENSION:  In setting of hct drop was concerned about active
   bleeding albeit not clear this was the case as below.  On broad
   spectrum abx/ antifungals.  Repeat blood cultures sent through line
   given possibility of sepsis.
 ANEMIA:  No increased output from abdominal drains noted.   Right
   drain out.  Dressing clean and dry.  Abdomen a bit more distended
   today.  Hct bumped appropriately to transfusion.  Will follow today for
   evidence of blood loss.  Low threshold to repeat abdominal scan if hct
   decreases over the day.
 ELECTROLYTE & FLUID DISORDER, OTHER: Hypokalemia, repleted this
   morning.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Creatinine
   continues to improve albeit may see worsening in setting of transient
   hypotension albeit given transfusions and volume resusuitation,
   hopefully will avoid further insult.
 COAGULOPATHY:  Received vitamin K and FFP yesterday.  INR still
   elevated.  Will hold on further FFP as no evidence of active bleeding.
   Else agree with assessment and plan as per the medical resisdent's
   note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2177-9-30**] 05:53 PM 58 mL/hour
   Glycemic Control:  Insulin in TPN
   Lines:
   PICC Line - [**2177-9-26**] 10:20 PM
   Multi Lumen - [**2177-9-27**] 10:00 PM
   Arterial Line - [**2177-9-30**] 07:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2177-10-04 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c Vanc
   - Was on PS 5/5 for most of yesterday, [**9-7**] overnight
   - Was Negtive -3.8L yesterday with electrolytes repleted
   - Underwent CT Abd/Pelvis
   Allergies:
   Lisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Metronidazole - [**2177-10-2**] 11:29 AM
   Vancomycin - [**2177-10-2**] 05:38 PM
   Meropenem - [**2177-10-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-10-4**] 12:28 AM
   Fentanyl - [**2177-10-4**] 12:45 AM
   Other medications:
   Changes to medical and family history: No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-4**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 87 (84 - 105) bpm
   BP: 131/63(90) {105/51(71) - 158/74(110)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.6 kg (admission): 81.2 kg
   Height: 61 Inch
    CVP: 10 (5 - 14)mmHg
   Total In:
                                                                  2,868 mL
                                                                    126 mL
   PO:
   TF:
   IVF:
                                                                    720 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  6,685 mL
                                                                    505 mL
   Urine:
                                                                  5,125 mL
                                                                    505 mL
   NG:
                                                                    630 mL
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                 -3,817 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (35 - 431) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.37/48/107/24/1
   Ve: 6.8 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Gen: Intubated, sedated, opens eyes and squeezes hands on command
   Pupils: PERRL, icteric sclera
   CV: RRR No M/R/G
   Pulm: equal breath bilat, CTAB
   Abd: Hypoactive BS, Wounds/ostomies without erythema or drainage
   Extr: remains edematous at U and L E, WWP
   Drains: 20-30cc from JPs, No penrose drainage, no pigtail drainage
   Labs / Radiology
   68 K/uL
   11.5 g/dL
   92 mg/dL
   3.2 mg/dL
   24 mEq/L
   4.2 mEq/L
   77 mg/dL
   110 mEq/L
   144 mEq/L
   32.5 %
   35.0 K/uL
        [image002.jpg]
                            [**2177-10-2**]  01:43 PM
                            [**2177-10-2**]  09:41 PM
                            [**2177-10-3**]  05:32 AM
                            [**2177-10-3**]  05:58 AM
                            [**2177-10-3**]  08:40 AM
                            [**2177-10-3**]  03:01 PM
                            [**2177-10-3**]  03:07 PM
                            [**2177-10-3**]  11:58 PM
                             [**2177-10-4**]  03:54 AM
                             [**2177-10-4**]  05:43 AM
   WBC
   36.6
   35.0
   Hct
   31.0
   32.5
   Plt
   77
   68
   Cr
   3.9
   3.7
   3.6
   3.6
   3.3
   3.2
   TCO2
   27
   27
   28
   29
   Glucose
   111
   117
   126
   134
   81
   92
   Other labs: PT / PTT / INR:19.9/36.4/1.9, CK / CKMB /
   Troponin-T:50/5/0.04, ALT / AST:140/116, Alk Phos / T Bili:238/8.1,
   Differential-Neuts:63.0 %, Band:5.0 %, Lymph:2.0 %, Mono:19.0 %,
   Eos:0.0 %, D-dimer:5744 ng/mL, Fibrinogen:412 mg/dL, Lactic Acid:1.7
   mmol/L, Albumin:2.3 g/dL, LDH:673 IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   75yoF with AML s/p chemo and R  hemicolectomy for cecal mass  c/b
   anastomotic leak and intra-abdominal here with resolving sepsis now
   POD#6 from would closure and wash out.
   # Sepsis: Remains off  pressors. Afebrile.  WBC stable. HR in 80s.
   Cultures NGTD.
   -  Following WBC count, fever curve
   -  Will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 350**] today most likely
   -  Minimal drainage from JP drains
   # Acute Hypoxemic Respiratory Failure: PS [**9-12**] overnight weaned to
   [**9-7**] this AM. Got [**Last Name (un) 2302**] of Fentanyl 100mg overnight.
   - Wean sedation
   - Discuss with surgery I/O goal
   - Will recheck gas and discuss with both medicine and surgery teams if
   pt to be extubated today
   # Fluid Balance: Pt 3.8L negative overnight.
   -          Discuss with surgery I/O goal today
   -          Check ABG for acid base status while diuresing
   -          Repleting electrolytes agrressively
   # Increased LFTs: Continuing to improve transaminases, AP and TB
   continue to rise. Potentially a lag effect from prior hypotensive
   episode. CT unrevealing.
   -          No current interventions
   -          Will discuss with team if further investigation warrented
   -          Cont to trend LFTs
   .
   # Anemia: Hct stable overnight
   - Serial hct, transfuse for hct <25
   .
   # Thrombocytopenia: Stable overnight.  No signs of further worsening of
   hematoma.
   - Serial Platlets checks and transfusion
   # Coagulopathy: INR 1.9 remains unchanged despite Vit K. Received 10
   Vit K Sc two days ago.
   - Trending INR
   # Acute renal failure: Great UOP with -3.8L yestedary. Creatinine
   continues to improve (3.2 from 3.6)
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins
   - Check renal recs
   .
   # AML and Cecal Mass: Followed by Heme/Onc during admission. Initial
   concern for recurrence given leukocytosis - peripheral smear showed No
   blast, consistent with known MDS.
   - Follow-up with Onc
   # DM 2: FS in 90s overnight
   - ISS and accuchecks.
   ICU Care
   Nutrition: Did not get TPN yesterday. Will resume today.
   .
   Glycemic Control:
   Lines:
   PICC Line - [**2177-9-26**] 10:20 PM
   Multi Lumen - [**2177-9-27**] 10:00 PM
   Arterial Line - [**2177-9-30**] 07:30 PM
   Prophylaxis
   DVT: SCDs
   Stress ulcer: PPI
   VAP: Mouth care
   Communication:  Comments:
   Code status:  Full
   Disposition: [**Hospital Unit Name 4**]

2177-10-05 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TPN reordered with Vit K
   - Tried to place radial A line but were unsuccessful with fellow trying
   w/ US as well.  Has fem A line in place for now
   -D/c'[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] as surgery did not think it was necessary
   - No lasix since evening [**10-3**] but pt continues to diurese approx 2L in
   24 hrs
   - Amylase/ lipase elevated to 279/575 surgery was alerted to this but
   is unsure of the cause
   - Pt will need vaginal exam for ? vaginal bleeding
   Allergies:
   Lisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Metronidazole - [**2177-10-2**] 11:29 AM
   Vancomycin - [**2177-10-2**] 05:38 PM
   Meropenem - [**2177-10-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2177-10-4**] 06:54 PM
   Morphine Sulfate - [**2177-10-5**] 01:09 AM
   Fentanyl - [**2177-10-5**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-5**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 102 (79 - 102) bpm
   BP: 165/77(114) {118/56(79) - 187/83(128)} mmHg
   RR: 24 (0 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.6 kg (admission): 81.2 kg
   Height: 61 Inch
    CVP: 11 (7 - 18)mmHg
   Total In:
                                                                    428 mL
                                                                     70 mL
   PO:
   TF:
   IVF:
                                                                    428 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                  1,250 mL
   Urine:
                                                                  2,120 mL
                                                                    825 mL
   NG:
                                                                    150 mL
                                                                    160 mL
   Stool:
   Drains:
                                                                     35 mL
                                                                     15 mL
   Balance:
                                                                 -2,028 mL
                                                                 -1,180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 370 (370 - 424) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.36/46/105/24/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Gen: Intubated, but responding to ?s, NAD
   CV: rrr no m/r/g
   Pulm: Coarse rhonchi throughout, no wheezes heard
   Abd: Soft, ostomy with dark green drainage, midline incision without
   erythema or drainage
   Extr: Remains with 3+ edema at ankles and hands, pulses present.
   Labs / Radiology
   80 K/uL
   11.7 g/dL
   126 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   73 mg/dL
   115 mEq/L
   148 mEq/L
   33.3 %
   25.0 K/uL
        [image002.jpg]
                            [**2177-10-3**]  05:58 AM
                            [**2177-10-3**]  08:40 AM
                            [**2177-10-3**]  03:01 PM
                            [**2177-10-3**]  03:07 PM
                            [**2177-10-3**]  11:58 PM
                             [**2177-10-4**]  03:54 AM
                             [**2177-10-4**]  05:43 AM
                             [**2177-10-4**]  11:11 AM
                             [**2177-10-4**]  05:00 PM
                             [**2177-10-5**]  04:03 AM
   WBC
   35.0
   25.0
   Hct
   32.5
   33.3
   Plt
   68
   80
   Cr
   3.6
   3.3
   3.2
   3.2
   2.7
   TCO2
   27
   27
   28
   29
   27
   Glucose
   134
   81
   92
   99
   126
   Other labs: PT / PTT / INR:19.5/35.3/1.8, CK / CKMB /
   Troponin-T:50/5/0.04, ALT / AST:137/125, Alk Phos / T Bili:260/8.1,
   Amylase / Lipase:250/550, Differential-Neuts:63.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:19.0 %, Eos:0.0 %, D-dimer:5744 ng/mL, Fibrinogen:412
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:711 IU/L, Ca++:8.1
   mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SHOCK, OTHER
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF
   75yoF with AML s/p chemo and R  hemicolectomy for cecal mass  c/b
   anastomotic leak and intra-abdominal here with resolving sepsis now
   POD#6 from would closure and wash out.
   # Sepsis: Remains off  pressors. Afebrile.  WBC stable. HR in 80s.
   Cultures NGTD.
   -  Following WBC count, fever curve
   -  Off antibiotics since [**2177-10-3**]
   -  Minimal drainage from JP drains
   # Acute Hypoxemic Respiratory Failure: PS overnight but tachypnic to
   30
s this AM. RSBI 98. Got total of Fentanyl 250mg since 5 PM. Alert
   today and responding to questions. No pain.
   - Wean sedation as tolerated
   - Will discuss with both medicine and surgery teams if pt to be
   extubated today
   # Fluid Balance: Pt net even overnight.
   -          Discuss with surgery I/O goal today
   -          Repleting electrolytes PRN
   # Increased LFTs: Continuing to improve transaminases, AP and TB
   continue stable. Potentially a lag effect from prior hypotensive
   episode. CT unrevealing.
   -          No current interventions
   -          Cont to trend LFTs
   .
   # Anemia: Hct stable overnight
   - Serial hct, transfuse for hct <25
   .
   # Thrombocytopenia: Stable overnight.  No signs of further worsening of
   hematoma.
   - Serial Platlets checks and transfusion
   # Coagulopathy: INR 1.8 remains unchanged despite Vit K. Received 10
   Vit K Sc on [**10-2**].
   - Trending INR
   # Acute renal failure: Good UOP yestedary. Creatinine continues to
   improve (2.7 from 3.2)
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins
   - Check renal recs
   .
   # AML and Cecal Mass: Followed by Heme/Onc during admission. Initial
   concern for recurrence given leukocytosis - peripheral smear showed No
   blast, consistent with known MDS.
   - Follow-up with Onc
   # DM 2: FS in 90s overnight
   - ISS and accuchecks.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2177-9-26**] 10:20 PM
   Multi Lumen - [**2177-9-27**] 10:00 PM
   Arterial Line - [**2177-9-30**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Correction on fluid status, overnight she was -2L  without lasix.
   Would continue diuresis today as she remains overloaded.
   - lasix gtt today
   ------ Protected Section Addendum Entered By:[**Name (NI) 786**] [**Name (NI) 2161**], MD
   on:[**2177-10-5**] 08:44 ------

2177-10-07 07:05:00 Physician Resident Progress Note
Chief Complaint: Laukocytosis, hypotension s/p R hemicolectomy and
   hematoma evacuation
   24 Hour Events:
   - Pt extubated without complications
   - Pt 2.5L overnight, Lasix gtt held, pt continued to diurese to -5L
   - K repleted
   - Pt slightly disoriented overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientLisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-10-7**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 83 (80 - 102) bpm
   BP: 157/66(101) {142/63(94) - 172/82(116)} mmHg
   RR: 21 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.9 kg (admission): 81.2 kg
   Height: 61 Inch
    CVP: 10 (3 - 10)mmHg
   Total In:
                                                                  1,507 mL
   PO:
   TF:
   IVF:
                                                                    439 mL
   Blood products:
   Total out:
                                                                  7,375 mL
                                                                    920 mL
   Urine:
                                                                  6,665 mL
                                                                    585 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                     35 mL
                                                                     10 mL
   Balance:
                                                                 -5,868 mL
                                                                   -920 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (365 - 367) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.42/39/74/25/0
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Absent : at bases R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Ostomy
   and penrose in place
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   62 K/uL
   11.8 g/dL
   122 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   57 mg/dL
   112 mEq/L
   145 mEq/L
   34.4 %
   22.7 K/uL
        [image002.jpg]
                             [**2177-10-5**]  12:54 PM
                             [**2177-10-5**]  06:08 PM
                             [**2177-10-6**]  12:12 AM
                             [**2177-10-6**]  04:26 AM
                             [**2177-10-6**]  05:26 AM
                             [**2177-10-6**]  03:07 PM
                             [**2177-10-6**]  03:21 PM
                             [**2177-10-6**]  10:08 PM
                             [**2177-10-6**]  10:53 PM
                             [**2177-10-7**]  04:15 AM
   WBC
   24.5
   22.7
   Hct
   33.3
   34.4
   Plt
   68
   62
   Cr
   2.4
   2.4
   2.0
   2.1
   2.2
   2.1
   1.9
   TCO2
   26
   27
   26
   Glucose
   162
   132
   131
   120
   134
   129
   122
   Other labs: PT / PTT / INR:17.6/34.3/1.6, CK / CKMB /
   Troponin-T:50/5/0.04, ALT / AST:135/134, Alk Phos / T Bili:241/7.2,
   Amylase / Lipase:250/550, Differential-Neuts:71.0 %, Band:4.0 %,
   Lymph:2.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:5744 ng/mL, Fibrinogen:412
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:791 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 SHOCK, OTHER
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   75yoF with AML s/p chemo and R  hemicolectomy for cecal mass  c/b
   anastomotic leak and intra-abdominal hematoma here with resolving
   sepsis now POD #9 from wound closure and wash out.
   # Sepsis: Tm 99.2 Remains off  pressors. WBC improving. Cultures NGTD.
   -  Following WBC count, fever curve
   -  Off antibiotics since [**2177-10-3**]
   -  JP drains out. Penrose and ostomy draining well
   # Acute Hypoxemic Respiratory Failure: Pt successfully extubated
   yesterday now with good O2 Sat on 3L NC.
   - Continue to monitor
   # Fluid Balance: -5L yesterday, lasix gtt off now -1L overnight.
   -          Discuss with surgery I/O goal today- pt autodiuresing
   currently
   -          Repleting electrolytes PRN
   # Increased LFTs: AP and TB appeared to peak [**10-4**]. Potentially a lag
   effect from prior hypotensive episode- shock liver. CT unrevealing.
   -          No current interventions
   -          Cont to trend LFTs
   .
   # Anemia: Hct stable overnight
   - Serial hct, transfuse for hct <25
   .
   # Thrombocytopenia: Stable overnight.  No signs of further worsening of
   hematoma.
   - continue to monitor
   # Coagulopathy: INR 1.6 from 1.7
   - Trending INR
   # Acute renal failure: Good UOP yestedary. Creatinine continues to
   improve (1.9 from 2.1)
   - Monitor UOP
   - Renally dose meds, avoid nephrotoxins
   - Check renal recs
   .
   # AML and Cecal Mass: Followed by Heme/Onc during admission. Initial
   concern for recurrence given leukocytosis - peripheral smear showed No
   blast, consistent with known MDS.
   - Follow-up with Onc
   .
   # DM 2:  FS in 100's, well controlled
   - ISS and accuchecks.
   ICU Care
   Nutrition: TPN, NPO for now- will d/w surgery
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-9-26**] 10:20 PM
   Multi Lumen - [**2177-9-27**] 10:00 PM
   Arterial Line - [**2177-9-30**] 07:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2177-10-07 11:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off lasix drip since yesterday around noon
   Continued to diurese on her own
   History obtained from Patient
   Allergies:
   Lisinopril
   Hives;
   Aspirin
   dyspepsia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-10-7**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 76 (76 - 102) bpm
   BP: 155/64(98) {153/63(98) - 172/82(116)} mmHg
   RR: 23 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.2 kg (admission): 81.2 kg
   Height: 61 Inch
   CVP: 10 (3 - 12)mmHg
   Total In:
                                                                  1,507 mL
                                                                    278 mL
   PO:
   TF:
   IVF:
                                                                    439 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  7,375 mL
                                                                  1,515 mL
   Urine:
                                                                  6,665 mL
                                                                  1,180 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                     35 mL
                                                                     10 mL
   Balance:
                                                                 -5,868 mL
                                                                 -1,237 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (367 - 367) mL
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.42/39/74/25/0
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   62 K/uL
   122 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   57 mg/dL
   112 mEq/L
   145 mEq/L
   34.4 %
   22.7 K/uL
        [image002.jpg]
                             [**2177-10-5**]  12:54 PM
                             [**2177-10-5**]  06:08 PM
                             [**2177-10-6**]  12:12 AM
                             [**2177-10-6**]  04:26 AM
                             [**2177-10-6**]  05:26 AM
                             [**2177-10-6**]  03:07 PM
                             [**2177-10-6**]  03:21 PM
                             [**2177-10-6**]  10:08 PM
                             [**2177-10-6**]  10:53 PM
                             [**2177-10-7**]  04:15 AM
   WBC
   24.5
   22.7
   Hct
   33.3
   34.4
   Plt
   68
   62
   Cr
   2.4
   2.4
   2.0
   2.1
   2.2
   2.1
   1.9
   TCO2
   26
   27
   26
   Glucose
   162
   132
   131
   120
   134
   129
   122
   Other labs: PT / PTT / INR:17.6/34.3/1.6, CK / CKMB /
   Troponin-T:50/5/0.04, ALT / AST:135/134, Alk Phos / T Bili:241/7.2,
   Amylase / Lipase:250/550, Differential-Neuts:71.0 %, Band:4.0 %,
   Lymph:2.0 %, Mono:9.0 %, Eos:0.0 %, D-dimer:5744 ng/mL, Fibrinogen:412
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.4 g/dL, LDH:791 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):   Extubbated since
   yesterday morning.  Doing well.
 ALTERATION IN NUTRITION:  Plan for speech and swallow exam today; may
   be able to advance diet. Discussed with Dr. [**Last Name (STitle) 2149**] on am rounds.
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS):  Soft on exam, good
   ostomy output.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Creatinine
   continues to improve, diuresing on her own.  Continue to monitor on her
   own, follow electrolytes and replete as needed.
 ANEMIA:  Hct remains stable.
 PT/OT to consult.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2177-10-7**] 08:11 AM 59 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-9-26**] 10:20 PM
   Multi Lumen - [**2177-9-27**] 10:00 PM
   Arterial Line - [**2177-9-30**] 07:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill